US04567179
2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole (Free Base)
2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole dihydrobromide (13.4 g) was stirred with 66.9 ml H2O and the pH slowly adjusted to a stable value of 10.0 over 2 hours with 22.6 ml of 3N NaOH while maintaining a temperature of 22°-24° C. Title product was recovered by suction filtration with water wash, pulled to a tight cake under a rubber dam, repulped in 28 ml acetone for 2 hours, refiltered, washed with 12 ml acetone and dried at 40° C. in vacuum to yield crystalline title product, 8.66 g, containing about 15% water.

reactant | 2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole dihydrobromide | 13.4 g | Br.Br.N(C(=N)N)C=1SC=C(N1)C=1N=C(NC1)C
reactant | NaOH | 3N, 22.6 ml | [OH-].[Na+]
solvent | H2O | 66.9 ml | O | H2O
product | 2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole | N(C(=N)N)C=1SC=C(N1)C=1N=C(NC1)C | C8H10N6S
